US07943669B2
Step A1: 1,3-Dibromo-5-isobutoxy-benzene
Potassium hydroxide (15.9 g; 284 mmol) was dissolved in water (300 ml) and 3,5-dibromo-phenol (47 g; 188.5 mmol) was added. Benzyl tributylammoniumchloride (17.7 g; 56.8 mmol) and toluene (200 ml) was added and the reaction mixture was heated to 85° C. Bromoethylpropan (32.3 g; 325.7 mmol) was added over 5 hours and the reaction mixture was stirred at 85° C. for additional 16 h. The reaction mixture was cooled to room temperature and the phases were separated. Toluene (100 ml) was added to the organic phase which was washed with 0.2 N aqueous HCl (200 ml×2) and water (200 ml×2). The organic phase was evaporated to give the crude product which was purified by distillation (0.7. mm Hg; Bp: 98° C.); Yield: 43 g (colourless oil).

reactant | Potassium hydroxide | 284 mmol, 15.9 g | [OH-].[K+]
reactant | 3,5-dibromo-phenol | 188.5 mmol, 47 g | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | Bromoethylpropan | 325.7 mmol, 32.3 g | BrCCCCC | C5H11Br
solvent | water | 300 ml | O | H2O
catalyst | Benzyl tributylammoniumchloride | 56.8 mmol, 17.7 g | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
product | 1,3-Dibromo-5-isobutoxy-benzene | BrC1=CC(=CC(=C1)OCC(C)C)Br | C10H12Br2O
